### PR TITLE
Surface Applib Programs

### PR DESCRIPTION
**Pull request by lukaszcz**
- Adds a `Program` type in `Applib` which mimics `Class.Member.Body` except that it uses Applib surface-level data structures instead of AVM data structures.
- Refactors `Applib.Surface` into `Applib.Surface.Object`, `Applib.Surface.Program` and `Applib.Surface.Member`.

### CODE REVIEW

File: Applib/Surface/Program.lean [hunk 1]
```diff
@@ -0,0 +1,161 @@
...
+    ⟨objId, toProgramParameterValues vals'⟩
+
+lemma Program.Parameters.toTaskParameters_genId {params : Program.Parameters} :
+  params.snocGenId.toTaskParameters = params.toTaskParameters.snocGenId := by
+  induction params <;> simp [Program.Parameters.snocGenId, Program.Parameters.toTaskParameters, Program.Parameters.append]
+  case fetch C i p1 ps1 ih =>
+    congr
+    funext
+    simp
+    apply ih
```
Comment (janmasrovira) [inline Applib/Surface/Program.lean:60]: I think it's fine to have the subgoal proof in one line here
```suggestion
  case fetch C i p1 ps1 ih => congr; funext; simp; apply ih
```

File: Applib/Surface/Program.lean [hunk 2]
```diff
@@ -0,0 +1,161 @@
...
+  case genId ps1 ih =>
+    congr
+    funext
+    simp
+    apply ih
```
Comment (janmasrovira) [inline Applib/Surface/Program.lean:65]: idem:

```suggestion
  case genId ps1 ih => congr; funext; simp; apply ih
```

File: Applib/Surface/Program.lean [hunk 3]
```diff
@@ -0,0 +1,161 @@
...
+  case empty =>
+    rfl
```
Comment (janmasrovira) [inline Applib/Surface/Program.lean:67]: for consistency with the above suggestions
```suggestion
  case empty => rfl
```

File: Applib/Surface/Program.lean [hunk 4]
```diff
@@ -0,0 +1,161 @@
...
+
+lemma Program.Parameters.toTaskParameters_snocFetch (C : Type) [i : IsObject C] {params : Program.Parameters} (objId : params.Product → ObjectId) :
+  (params.snocFetch C objId).toTaskParameters =
+    params.toTaskParameters.snocFetch (fun vals => ⟨i.classId.label, objId (Task.Parameters.Values.toProgramParameterValues vals)⟩) := by
+  induction params <;> simp [Program.Parameters.snocFetch, Program.Parameters.toTaskParameters, Program.Parameters.append]
+  case fetch C' i' p1 ps1 ih =>
```
Comment (janmasrovira) [inline Applib/Surface/Program.lean:73]: idem
